US08022205B2
2-Oxotetrahydrofuran-3-carboxylic acid methyl ester
To a tetrahydrofuran solution (150 ml) of lithium hexamethyldisilazide prepared at −78° C. under an argon atmosphere from hexamethyl disilazane (55.4 ml, 262 mmol) and normal butyl lithium (2.62 M hexane solution, 100 ml, 262 mmol), a tetrahydrofuran solution (60 ml) of gamma butyrolactone (9.84 ml, 128 mmol) was added dropwise at −78° C. 10 minutes later, dimethyl carbonate (11.3 ml, 134 mmol) was added, followed by further stirring at room temperature for 10 hours. The reaction mixture was poured onto a mixture of concentrated hydrochloric acid (44 ml) and ice (500 g), followed by extraction twice with ethyl acetate. The extract was washed with brine, and subsequently dried over sodium sulfate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure, to obtain the desired compound (pale brown oil, 15.1 g, 82%).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | hexamethyl disilazane | 262 mmol, 55.4 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | normal butyl lithium | 262 mmol, 2.62 M, 100 ml | C(CCC)[Li]
reactant | gamma butyrolactone | 128 mmol, 9.84 ml | C1(CCCO1)=O | C4H6O2
reactant | dimethyl carbonate | 134 mmol, 11.3 ml | C(OC)(OC)=O | C3H6O3
reactant | hydrochloric acid | 44 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Oxotetrahydrofuran-3-carboxylic acid methyl ester | 15.1 g, 82% | COC(=O)C1C(OCC1)=O | C6H8O4
